US07524841B2
After dissolving 4-fluoro-4-({[5-(methoxycarbonyl)benzimidazol-2-yl]amino}methyl)piperidinecarboxylic acid tert-butyl ester (1.2 g, 2.95 mmol) in MeOH (6 ml), a 4N hydrogen chloride/1,4-dioxane solution (3.7 ml, 14.7 mmol) was added and the mixture was stirred at room temperature overnight. The reaction mixture was concentrated to obtain 2-{[(4-fluoro-4-piperidyl)methyl]amino}benzimidazole-5-carboxylic acid methyl ester hydrochloride. The compound was identified by LC-MS.

reactant | 4-fluoro-4-({[5-(methoxycarbonyl)benzimidazol-2-yl]amino}methyl)piperidinecarboxylic acid tert-butyl ester | 2.95 mmol, 1.2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(CNC=1NC2=C(N1)C=CC(=C2)C(=O)OC)F | C20H27FN4O4
reactant | hydrogen chloride 1,4-dioxane | 14.7 mmol, 4N, 3.7 ml | Cl.O1CCOCC1
solvent | MeOH | 6 ml | CO | CH4O
product | 2-{[(4-fluoro-4-piperidyl)methyl]amino}benzimidazole-5-carboxylic acid methyl ester hydrochloride | Cl.COC(=O)C1=CC2=C(N=C(N2)NCC2(CCNCC2)F)C=C1 | InChI=1S/C15H19FN4O2.ClH/c1-22-13(21)10-2-3-11-12(8-10)20-14(19-11)18-9-15(16)4-6-17-7-5-15;/h2-3,8,17H,4-7,9H2,1H3,(H2,18,19,20);1H
